US20010046993A1
A. 1-[2-(4-Benzyl-1-piperazinyl)ethyl]cyclopentylamine
CeCl3 (50.0 g,/203 mmol) was dried in vacuo for 20 hours at 150° C. After cooling to room temperature, tetrahydrofuran (500 ml) was added under nitrogen and the resulting suspension was stirred for id. After cooling to −78° C., to the suspension was added dropwise butanediyl dilithium in diethylether (90 mmol), which was prepared according to the literature (J. Org. Chem., 1990, 55, 5406) and the mixture was stirred for 1 hour. To the mixture was added dropwise a solution of 3-(4-benzyl-1-piperazinyl)propanenitrile (16.0 g/70.0 mmol) in tetrahydrofuran (100 ml) and stirred for 1 d at room temperature. The mixture was poured into 2 N—NaOH (200 ml) and the whole was extracted with dichloromethane (200 ml×2). The combined extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (NH2 gel, 230-400 mesh/dichloromethane) to give a mixture of the titled compound and 1-benzylpiperazine (5.9 g).

reactant | butanediyl dilithium | C(CCC[Li])[Li]
reactant | diethylether | 90 mmol | C(C)OCC | C4H10O
reactant | 3-(4-benzyl-1-piperazinyl)propanenitrile | 70.0 mmol, 16.0 g | C(C1=CC=CC=C1)N1CCN(CC1)CCC#N | C14H19N3
reactant | NaOH | 200 ml | [OH-].[Na+]
reactant | 1-benzylpiperazine | 5.9 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1-[2-(4-Benzyl-1-piperazinyl)ethyl]cyclopentylamine | C(C1=CC=CC=C1)N1CCN(CC1)CCC1(CCCC1)N | C18H29N3
